US08754114B2
N-[(1-Methylpiperidin-4-yl)methyl]-3-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 1 starting from 3-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)-phenyl]-1H-benzimidazol-5-yl}benzoic acid and 1-(1-methylpiperidin-4-yl)methanamine (Matrix Sci., Cat. No. 016352). LCMS (M+H)+: m/z=565.3.

reactant | 3-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)-phenyl]-1H-benzimidazol-5-yl}benzoic acid | FC(CNC(=O)NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C=2C=C(C(=O)O)C=CC2)(F)F | C23H17F3N4O3
reactant | 1-(1-methylpiperidin-4-yl)methanamine | CN1CCC(CC1)CN | C7H16N2
product | N-[(1-Methylpiperidin-4-yl)methyl]-3-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzamide | CN1CCC(CC1)CNC(C1=CC(=CC=C1)C1=CC2=C(N(C=N2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)C=C1)=O | C30H31F3N6O2
